US07416867B2
Isopropylidene-glucofuranose+methyl acrylate
5 mmol of isopropylidene-glucofuranose (IP-Glu), 50 mmol of methyl acrylate (MA), optionally 1.0 g of molecular sieve (5 Å), optionally 10 ml of solvent, and 100 mg of Novozym 435 were shaken at 40° C. for 24 h.

reactant | isopropylidene-glucofuranose | 5 mmol | C(C)(C)=C([C@H]([C@@H]1[C@@H]([C@H](C(O)O1)O)O)O)O | C9H16O6
reactant | methyl acrylate | 50 mmol | C(C=C)(=O)OC | C4H6O2
product | Isopropylidene-glucofuranose methyl acrylate | C(C)(C)=C([C@H]([C@@H]1[C@@H]([C@H](C(O)O1)O)O)O)O.C(C=C)(=O)OC | InChI=1S/C9H16O6.C4H6O2/c1-3(2)4(10)5(11)8-6(12)7(13)9(14)15-8;1-3-4(5)6-2/h5-14H,1-2H3;3H,1H2,2H3/t5-,6-,7-,8-,9?;/m1./s1
